US05817850
A mixture of 33 mg (0.031 mmol) of the ferrocenyl bis(phosphonite) prepared in Example 1 and 12 mg (0.031 mmol) of bis(bicyclo[2.2.1]hepta-2,5-diene)rhodium(I) perchlorate in 2 mL of methanol/tetrahydrofuran (1:1) solution is stirred for two hours. Then, to the resultant solution of rhodium complex is added a solution of 490 mg (3.1 mmol) of dimethyl itaconate and 13 mL of methanol in a pressure reactor. The reactor is then pressurized to 1018 psi with hydrogen and the reaction is stirred at ambient temperature for 88 hours. 1H nmr analysis of the reaction mixtures shows a 100% conversion of dimethyl itaconate starting material to product. Workup of the reaction mixture gives 492 mg (99% yield) of desired dimethyl 2-methylsuccinate.

reactant | dimethyl itaconate | 3.1 mmol, 490 mg | C(C(=C)CC(=O)OC)(=O)OC | C7H10O4
reactant | methanol | 13 mL | CO | CH4O
reactant | hydrogen | [H][H] | H2
solvent | methanol tetrahydrofuran | 2 mL | CO.O1CCCC1
catalyst | 1,1'-Bis[2,4,8,10-tetrakis(tert-butyl)-dibenzo[d,f][1,3,2]dioxaphosphepin-6-yl]ferrocene | 0.031 mmol, 33 mg | C(C)(C)(C)C1=CC2=C(OP(OC3=C2C=C(C=C3C(C)(C)C)C(C)(C)C)[C-]3C=CC=C3)C(=C1)C(C)(C)C.[C-]1(C=CC=C1)P1OC3=C(C2=C(O1)C(=CC(=C2)C(C)(C)C)C(C)(C)C)C=C(C=C3C(C)(C)C)C(C)(C)C.[Fe+2]
product | dimethyl 2-methylsuccinate | 492 mg, 99% yield | CC(C(=O)OC)CC(=O)OC | C7H12O4
